US06066639
To a 100 mL 14/20 round bottom flask under a nitrogen atmosphere was charged 1.0 g (4.81 mmmol) of 2-bromo-4-thiazolecarboxylic acid in 10 mL of benzene, followed by the addition of 1.4 mL (19 mmol) of thionyl chloride, and a catalytic amount of dimethylformamide. The reaction was heated to reflux for 2 hours The volatiles were removed in vacuo, and this residue was then dissolved in 15 mL of methylene chloride and added dropwise to an ice-bath cooled mixture of 1.21 g (5.05 mmol) of L-glutamic acid diethyl ester, 1.41 mL (10.1 mmol) of triethylamine, and 5 mg of dimethylaminopyridine in 15 mL methylene chloride. After the addition, the ice bath was removed and the reaction was stirred at room temperature for 2 hours The reaction was diluted with methylene chloride, washed with 0.1 N hydrochloric acid, water, 5% sodium bicarbonate, water, dried over sodium sulfate, and removed in vacuo. The crude residue was purified using silica gel flash chromatography eluting with a gradient of 1:2 ethyl acetate/hexanes to 1:1 ethyl acetate/hexanes to give 0.9 g (48%) of N-[(2-bromo-5-thiazolyl)carbonyl]-L-glutamic acid diethyl ester as a yellow oil. Rf =0.30 (1:2 ethyl acetate/hexanes), 1H NMR (300 MHz, CDCl3) δ 1.24-1.34 (m, 6H), 2.15-2.32 (m, 2H), 2.47-2.55 (m, 2H), 4.12-4.30 (m, 4H), 4.64-4.71 (m, 1H), 7.97 (s, 1H).

reactant | 2-bromo-4-thiazolecarboxylic acid | 1.0 g | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | thionyl chloride | 19 mmol, 1.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | L-glutamic acid diethyl ester | 5.05 mmol, 1.21 g | C(C)OC([C@@H](N)CCC(=O)OCC)=O | C9H17NO4
reactant | triethylamine | 10.1 mmol, 1.41 mL | C(C)N(CC)CC | C6H15N
reactant | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylaminopyridine | 5 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[(2-bromo-5-thiazolyl)carbonyl]-L-glutamic acid diethyl ester | 0.9 g, 48% | C(C)OC([C@@H](NC(=O)C1=CN=C(S1)Br)CCC(=O)OCC)=O | C13H17BrN2O5S
